US06017919
A solution of sodium hydroxide (680 mg), water (21ml) and antiformin (34 ml) was heated to 55° C. 1-(4-Hydroxy-3-pentyloxyphenyl)-2-bromoethanone (3.01 g, 0.01 mol, 1.0 eq) was added, and the mixture was stirred at 60° C.-70° C. for 40 minutes. An aqueous solution (10 ml) of sodium thiosulfate (1.2 g) was added, and the mixture was cooled to room temperature. Conc. hydrochloric acid (5 ml) was added to adjust the mixture to pH 5-6. Water (50 ml) was added to this reaction mixture, and the mixture was extracted twice with ethyl acetate (100 ml). The organic layers were combined, washed with saturated brine (200 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (n-hexane/ethyl acetate/acetic acid=2/1/0.01) to give 4-hydroxy-3-pentyloxybenzoic acid (1.24 g, 55.3%).

reactant | sodium hydroxide | 680 mg | [OH-].[Na+]
reactant | antiformin | 34 ml | [O-]Cl.[Na+]
reactant | 1-(4-Hydroxy-3-pentyloxyphenyl)-2-bromoethanone | 0.01 mol, 3.01 g, 1.0 eq | OC1=C(C=C(C=C1)C(CBr)=O)OCCCCC | C13H17BrO3
reactant | sodium thiosulfate | 10 ml, 1.2 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | Water | 50 ml | O | H2O
solvent | water | 21ml | O | H2O
product | 4-hydroxy-3-pentyloxybenzoic acid | 1.24 g, 55.3% | OC1=C(C=C(C(=O)O)C=C1)OCCCCC | C12H16O4
